US03939172
4-(N4 -acetylsulfanilamido)thiazole
A cold solution of 1.60 g. (0.016 mole) of 4-aminothiazole in 20 ml. of dry pyridine is treated with 4.0 g. (0.017 mole) of acetylsulfanilyl chloride in small portions over 15 minutes. The reaction is allowed to warm slowly to room temperature and stirring continued for about 2 days. The red solution is diluted slowly with 120 ml. of water and then cooled in an ice-bath for 11/2 hours. The crystalline precipitate is collected and washed with a small amount of cold dilute hydrochloric acid followed by several portions of water. The yield of the air-dried cream-colored product is 4.10 g. (86%) m.p. 231°-2°C.

reactant | 4-aminothiazole | 0.016 mole | NC=1N=CSC1 | C3H4N2S
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | acetylsulfanilyl chloride | 0.017 mole | C(C)(=O)C1=C(S(=O)(=O)Cl)C=CC(=C1)N | C8H8ClNO3S
reactant | water | O | H2O
product | 4-(N4 -acetylsulfanilamido)thiazole | C(C)(=O)NC1=CC=C(S(=O)(=O)NC=2N=CSC2)C=C1 | C11H11N3O3S2
